US08138333B2
4-[(E)-2-Nitrovinyl]-1-(phenylsulfonyl)-1H-indole
1-(Phenylsulfonyl)-1H-indole-4-carbaldehyde, Intermediate 5 (45.4 g, 0.159 mol) was dissolved in nitromethane (300 ml) and ammonium acetate (4.9 g, 0.064 mol, 0.4 eq.) was added. Mixture was heated at reflux for 4 hours and left overnight at ROOM TEMPERATURE Water (150 ml) was added, organic phase was separated. The aqueous phase was extracted with DCM (3×50 ml). Combined organic phase was washed with brine and dried on Na2SO4. The crude material (HPLC purity 85%) was passed through a silica column using DCM/EtOAc (8:1) as eluent. The product containing fractions were evaporated to a small volume when crystallization started. The yellow crystals were filtered, washed with petro/ether/EtOAc (2:1), and dried in vacuo. Yield: 33.1 g. MS m/z 329 [M+H]+.

reactant | 1-(Phenylsulfonyl)-1H-indole-4-carbaldehyde | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C(=CC=CC12)C=O | C15H11NO3S
reactant | ammonium acetate | 0.064 mol, 4.9 g, 0.4 eq. | C(C)(=O)[O-].[NH4+]
reactant | Water | 150 ml | O | H2O
reactant | nitromethane | 300 ml | [N+](=O)([O-])C | CH3NO2
product | 4-[(E)-2-Nitrovinyl]-1-(phenylsulfonyl)-1H-indole | [N+](=O)([O-])/C=C/C1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C16H12N2O4S
